trab 3


.options savecurrents

.param n=1/18.41351
.param xC1=1u
.param xR2=0.5k


*transformer
Vprimario 0 ze dc 0 ac 230 SINE(0 230 50 0 0 0)
E1 1 0 0 ze n

*full wave rectifier
D1 1 4 Default
D2 0 1 Default
D3 0 2 Default
D4 2 4 Default


*envelope detector
C1 4 0 xC1

R2 4 5 xR2


*limiter
D5 5 0 Nd


*setting up models
.model Default D
.model Nd D(N=31)

.op
.end

*transient analysis
.tran 2e-4 30 0.1

.control
run
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo "Transient analysis"
echo "********************************************"

hardcopy estabilizar.ps v(5)
echo estabilizar_FIG

.endc